US07465731B2
To a solution of ethyl 6-[(3R)-3-piperidinylamino]nicotinate (3.9 g, 15.6 mmol) in ethanol (40 mL) was added di-tert-butyl dicarbonate (3.76 g, 17.2 mmol) at ambient temperature and the mixture was stirred at same temperature for 18 hrs. The reaction mixture was evaporated in vacuo and the residue was partitioned between water and EtOAc. The organic layer was separated, washed water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc/1:1) to give ethyl 6-{[(3R)-1-(tert-butoxycarbonyl)-3-piperidinyl]amino}nicotinate (5.4 g, 99%) as an oil.

reactant | ethyl 6-[(3R)-3-piperidinylamino]nicotinate | 15.6 mmol, 3.9 g | N1C[C@@H](CCC1)NC1=NC=C(C(=O)OCC)C=C1 | C13H19N3O2
reactant | di-tert-butyl dicarbonate | 17.2 mmol, 3.76 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | ethyl 6-{[(3R)-1-(tert-butoxycarbonyl)-3-piperidinyl]amino}nicotinate | 5.4 g, 99% | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)NC1=NC=C(C(=O)OCC)C=C1 | C18H27N3O4
